US04640708
Propionic anhydride (25 ml) was added cautiously to freshly prepared sodium methoxide (0.1 g). 3-Hydroxy-5-(naphth-2-yl)-cyclohex-2-en-1-one (4.35 g) was added and the reaction mixture was heated at 160°-180° C. for a period of 2 hrs. The excess propionic anhydride was removed by distillation under reduced pressure. Aqueous 20% sodium hydroxide solution (50 ml) was added to the residue and the mixture was heated at reflux for 2 hrs with vigorous stirring. After cooling, the mixture was poured onto ice/hydrochloric acid. The dried (Na2SO4) dichloromethane extract ws concentrated and the residue was purified by column chromatography over silica gel with dichloromethane elution to give 3-hydroxy-5-(naphth-2-yl)-2-propionylcyclohex-2-en-1-one as a pale yellow solid, mp 125° C.

reactant | Propionic anhydride | 25 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sodium methoxide | 0.1 g | C[O-].[Na+]
reactant | 3-Hydroxy-5-(naphth-2-yl)-cyclohex-2-en-1-one | 4.35 g | OC1=CC(CC(C1)C1=CC2=CC=CC=C2C=C1)=O | C16H14O2
product | 3-hydroxy-5-(naphth-2-yl)-2-propionylcyclohex-2-en-1-one | OC1=C(C(CC(C1)C1=CC2=CC=CC=C2C=C1)=O)C(CC)=O | C19H18O3
